### PR TITLE
Automatically apply negation and simplify constraint specification

### LINKED ISSUE #2: Unexpected SAT solver conclusions
At the moment I can't seem to get `z3` to fail. For example if in `AND-Gate-2-Sigmoid-1`  we have the following code which type checks fine:
```agda
script : Script [] (Reals 2 ++ Reals 1) (SAT ∷ [])
script = withReflectedNetworkAsScript model $ λ where
  -- give names to input and output nodes
  iv@(i₀ ∷ i₁ ∷ []) ov@(o₀ ∷ [])
  -- give remainder of the smt-lib script
    → assert (i₀ == 0·0f ∧ i₁ == 0·0f ⇒ o₀ == 0·0f)
    ∷ assert (i₀ == 0·0f ∧ i₁ == 1·0f ⇒ o₀ == 0·0f)
    ∷ assert (i₀ == 1·0f ∧ i₁ == 0·0f ⇒ o₀ == 0·0f)
    ∷ assert (i₀ == 1·0f ∧ i₁ == 1·0f ⇒ o₀ == 1·0f)
    ∷ check-sat
    ∷ []

_ : z3 script ≡ sat ∷ []
_ = refl
```

However changing the first assertion to:
```
assert (i₀ == 0·0f ∧ i₁ == 0·0f ⇒ o₀ == 1·0f)
```
also appears to type-check which is more than a little worrying....

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
Sort of fixes #2. The main problem was that we weren't formulating the right query for z3. Because proving the constraints hold is equivalent to showing that there exists no assignment that violates them, we have to negate the constraints before passing them to z3 and then check for `unsat` rather than `sat`. I've added some extra boilerplate that automatically applies the negation and simplifies the process of specifying them.

Unfortunately this has exposed a new problem with the `AND-gate` example. Z3 is now incorrectly reporting SAT (with `i₀ = 0`, `i₁ = 0` and `o₀ = 2000000000000.0/63473488996304663206909.0` rather than UNSAT. 

My hypothesis is that the query is now correct but that this is a result of the linearisation of the sigmoid function. Unfortunately we currently have a disconnect between the evaluation of the network in Agda and the function we feed to z3 as the former evaluates it exactly and the later linearises it. Obviously this can be worked around if we don't test for 0.0 but merely test that it's close enough to 0.0.

### CODE REVIEW

**Comment by MatthewDaggitt** [comment]
Okay, I've now actually fixed #2. The problem was that the function approximations for the `sigmoid` function were particularly bad for large values of `x` as the errors in the linear extrapolation of `exp` were magnified when taking the reciprocal. I've therefore added a new datatype `OutOfBoundsStrategy` that can be specified for above and below the linear approximations. This can be set to either `extrapolate`, `nearestValue` or a new one: `constant`. I've also approximated the sigmoid function on it's own terms rather than in terms of the exponential. 

Combined, these two changes allow us to specify that outside the linear segments, the value of the sigmoid function should be 0 and 1 respectively. I've also updated the `README` with the standard `truthy` and `falsey` example :tada:

File: README.md [hunk 1]
```diff
@@ -69,23 +70,51 @@ _ = refl
...
+and then rerun the query:
 
 ```agda
--- pending…
+_ : z3 (query model fuzzyConstraints) ≡ unsat ∷ []
+_ = refl
 ```
 
-Whoa, that’s very cool! Now we know our network is robust around both truthy and
+Whoa, that’s very cool! Now we know our network is robust around both truthy and
```
Comment (wenkokke) [inline README.md:107]: I'm very confused as to why this particular line was picked up by diff?

File: models/Amethyst/Prelude.agda [hunk 2]
```diff
@@ -15,25 +15,92 @@
...
+  List (Term Γ BOOL)
+  where Γ = Reals inputs ++ Reals outputs
+
+processConstraints : ∀ {Γ} → List (Term Γ BOOL) → Command Γ [] []
+processConstraints constraints = assert (app₁ not (List.foldr (app₂ and) (app₀ true) constraints))
+
+query : ∀ {inputs outputs layers} (let Γ = Reals inputs ++ Reals outputs)
+  → Network Float inputs outputs layers
+  → NetworkConstraints inputs outputs
+  → Script [] Γ (SAT ∷ [])
```
Comment (wenkokke) [inline models/Amethyst/Prelude.agda:49]: Is the let-binding really necessary? As far as I can tell, Γ is only used once.

**Comment by wenkokke** [comment]
@MatthewDaggitt:
When trying to compile this pull request, I'm getting...
```
/path/to/amethyst/src/Amethyst/PiecewiseLinear/Base.agda:115,10-28
⦃ NonZero pieces ⦄ cannot appear by itself. It needs to be the
argument to a function expecting an instance argument.
when scope checking ⦃ NonZero pieces ⦄
```
Which of the dependencies should I update to fix this?

File: README.md (hunk 1 above)
Comment (MatthewDaggitt) [reply README.md:107]: I think it was a non-standard white space character before. Emacs was highlighting it at any rate...

File: models/Amethyst/Prelude.agda (hunk 2 above)
Comment (MatthewDaggitt) [reply models/Amethyst/Prelude.agda:49]: Yup, that's true it can be removed. At one point it was being repeated a lot.

**Comment by MatthewDaggitt** [comment]
> Which of the dependencies should I update to fix this?

I think you need to pull the latest version of `experimental` from the standard library.

File: README.md (hunk 1 above)
Comment (wenkokke) [reply README.md:107]: Wonder how I managed to insert that...

**Comment by wenkokke** [comment]
I ended up updating everything, and it works now.
